US08377670B2
A solution of 2,3-bis(hydroxylamino)-2,3-dimethylbutane (1.3 g, 8.8 mmol) and 4-methoxy-benzaldehyde (1.2 g, 8.8 mmol) in methanol (10 mL) was stirred at room temperature until reactants disappeared as TLC indicated. 1,3-Dihydroxy-2-(4-methoxyphenyl)-4,4,5,5-tetramethylimidazolidine was obtained by filtration, the filtrate was evaporated under reduced pressure to obtain the second crop of the title compound. The combined compound was then washed with petroleum ether and used for the next reaction (0.8 g, 34% yield). 1HNMR (400 MHz, DMSO): δ 7.63 (s, 1 H), 7.32 (d, 1 H, J=6.8), 6.87 (d, 1 H, J=5.8), 4.42 (s, 1 H), 3.72 (s, 3 H), 1.06 (s, 3 H), 1.02 (s, 3 H).

reactant | 2,3-bis(hydroxylamino)-2,3-dimethylbutane | 8.8 mmol, 1.3 g | ONC(C)(C(C)(C)NO)C | C6H16N2O2
reactant | 4-methoxy-benzaldehyde | 8.8 mmol, 1.2 g | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 1,3-Dihydroxy-2-(4-methoxyphenyl)-4,4,5,5-tetramethylimidazolidine | 34% yield | ON1C(N(C(C1(C)C)(C)C)O)C1=CC=C(C=C1)OC | C14H22N2O3
